US09278981B2
Stage 236.1 2-Chloro-5′-fluoro-N-(4-(trifluoromethoxy)phenyl)-[3,3′-bipyridine]-5-carboxamide
The title compound was prepared in an analogous fashion to that described in Stage 223.1 using 6-chloro-5-iodo-N-(4-(trifluoromethoxy)phenyl)nicotinamide and 3-fluoropyridine-5-boronic acid pinacol ester. The crude product was dissolved in DCM (20 mL) and treated with n-hexane. The resulting solid was filtered off, washed with n-hexane and dried to afford the title product as a beige solid. UPLC-MS (Condition 3) tR=1.13 min, m/z=412 [M+H]+.

reactant | 6-chloro-5-iodo-N-(4-(trifluoromethoxy)phenyl)nicotinamide | ClC1=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1I | C13H7ClF3IN2O2
reactant | 3-fluoropyridine-5-boronic acid pinacol ester | FC=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C11H15BFNO2
reactant | n-hexane | CCCCCC | C6H14
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5′-fluoro-N-(4-(trifluoromethoxy)phenyl)-[3,3′-bipyridine]-5-carboxamide | ClC1=NC=C(C=C1C=1C=NC=C(C1)F)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C18H10ClF4N3O2
